US07569578B2
(R)-1-(3-(4-Fluorophenyl)-1,2,4-oxadiazol-5-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethyl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate
A stirred solution of (R)-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carbonyloxy)propanoic acid (22.4 mg, 0.0370 mmol) in anhydrous diglyme (2 mL) was treated with 4-fluorobenzamidoxime (5.3 mg, 0.0389 mmol) and 1-[3-(dimethylamino)propyl]3-ethylcarbodiimide hydrochloride (7.5 mg, 0.0389 mmol) to at room temperature. The mixture was stirred overnight. The stirred mixture was then heated to 110° C. overnight. After cooling to room temperature, the solvent was removed in vacuo and the crude product was purified using preparative HPLC to afford a tan gum (16.2 mg, 61%). 1H-NMR (CDCl3, 400 MHz) δ 8.8.06 (bs, 2H), 7.88 (s, 1H), 7.69-7.46 (m, 2H), 7.40 (s, 1H), 7.35-7.20 (m,2H), 7.18-7.07 (m, 2H), 7.07 (s, 1H), 6.19-6.15 (m, 1H), 5.79 (s, 2H), 4.40-4.20 (m, 2H), 3.55-3.40 (m, 4H), 3.20-2.83 (m, 4H), 2.70 (s, 3H), 2.72-2.35 (m, 2H), 2.08-1.9 (m, 2H), 0.90-0.77 (m, 2H), −0.11 (s, 9H). Mass spec. 723.3 (MH+).

reactant | (R)-3-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carbonyloxy)propanoic acid | 0.0370 mmol, 22.4 mg | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)C[C@H](C(=O)O)OC(=O)N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C32H40N4O6Si
reactant | 4-fluorobenzamidoxime | 0.0389 mmol, 5.3 mg | FC1=CC=C(C(N)=NO)C=C1 | C7H7FN2O
reactant | 1-[3-(dimethylamino)propyl]3-ethylcarbodiimide hydrochloride | 0.0389 mmol, 7.5 mg | Cl.CN(CCCN=C=NCC)C
solvent | diglyme | 2 mL | COCCOCCOC | C6H14O3
product | (R)-1-(3-(4-Fluorophenyl)-1,2,4-oxadiazol-5-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethyl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | 16.2 mg, 61% | O=C1NC2=CC=CC=C2C=C1C1CCN(CC1)C(=O)O[C@H](CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C1=NC(=NO1)C1=CC=C(C=C1)F | C39H43FN6O5Si
